US07410991B2
Intermediate 6.1: tert-Butyl[(1-butylprop-2-ynyl)oxy]dimethylsilane.
To a solution of hept-1-yn-3-ol (5.0 g, 0.0446 mol) in dry DMF (50 mL) were added imidazole (3.64 g, 0.054 mol) and tert-butyldimethylsilyl chloride (6.06 g, 0.054 mol). The resulting mixture was stirred at RT for 18 h and then treated with saturated NH4Cl (25 mL) and ethyl acetate (250 mL). The organic layer was washed with saturated NH4Cl (50 mL), water (4×100 mL), brine (2×100 mL), dried over sodium sulfate, and concentrated in vacuo to afford the crude product (9.57 g, 95%), as a yellow oil, which was used in the next step without further purification. Rf 0.9 (EtOAc/hexanes 1/9); 1H NMR (CDCl3) δ 0.09 (s, 3H), 0.12 (s, 3H), 0.89 (s, 9H), 1.31-1.38 (m, 4H), 1.65-1.67 (m, 2H), 3.35 (s, 1H), 4.32-4.33 (m, 1H).

reactant | hept-1-yn-3-ol | 0.0446 mol, 5.0 g | C#CC(CCCC)O | C7H12O
reactant | imidazole | 0.054 mol, 3.64 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.054 mol, 6.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl[(1-butylprop-2-ynyl)oxy]dimethylsilane | 9.57 g, 95% | C(C)(C)(C)[Si](C)(C)OC(C#C)CCCC | C13H26OSi
